US06310070B1
1.00 g (3.01 mmol) of 7-benzyl-2-(3-methoxyphenyl)hypoxanthine prepared according to the same method as in Example 16 was dissolved in 20 ml of acetic acid. 3 ml of hydrobromic acid was added to the solution, followed by stirring for 35.5 hours at 100° C. Crystals obtained by cooling was separated by filtration and washed with distilled water and ethanol. The resulting crude crystals were purified by recrystallization from ethanol to obtain 0.64 g of 7-benzyl-2-(3-hydroxyphenyl)hypoxanthine (yield 67%).

reactant | 7-benzyl-2-(3-methoxyphenyl)hypoxanthine | 3.01 mmol, 1.00 g | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)C1=CC(=CC=C1)OC | C19H16N4O2
reactant | hydrobromic acid | 3 ml | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7-benzyl-2-(3-hydroxyphenyl)hypoxanthine | 0.64 g, yield 67% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)C1=CC(=CC=C1)O | C18H14N4O2
